US05824691
4,4-Dimethyl-2-[3-(2-nitrophenyl)phenyl]4,5-dihydrooxazole (1.7 g) was heated to reflux for 19 hours in 95% methanolic sulfuric acid (28.7 ml) (prepared by mixing methanol (15 ml), concentrated sulfuric acid (1.15 ml), and water (1.44 ml) and bringing the total volume to 28.7 ml with additional methanol). After cooling, the solution was concentrated to ca. 7 ml and poured into ether (60 ml). The ethereal solution was washed with aqueous potassium carbonate solution and brine,then dried over magnesium sulfate and concentrated in vacuo to yield methyl 3-(2-nitrophenyl)benzoate as a yellow solid.

reactant | 4,4-Dimethyl-2-[3-(2-nitrophenyl)phenyl]4,5-dihydrooxazole | 1.7 g | CC1(N=C(OC1)C1=CC(=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-])C | C17H16N2O3
reactant | methanol | 15 ml | CO | CH4O
reactant | water | 1.44 ml | O | H2O
solvent | sulfuric acid | 28.7 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 1.15 ml | S(O)(O)(=O)=O | H2O4S
product | methyl 3-(2-nitrophenyl)benzoate | [N+](=O)([O-])C1=C(C=CC=C1)C=1C=C(C(=O)OC)C=CC1 | C14H11NO4
